US07067506B2
Step 4: 3-Methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid.
To a stirred suspension of 3-methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid methyl ester (7.15 g, 22.6 mmol) in 3:1 MeOH:H2O (226 mL) at RT under N2 was added lithium hydroxide monohydrate (9.5 g, 226 mmol) as a solid and the mixture heated to 65 ° C. After reaching temperature, the suspension gradually became a bright yellow solution. After about 4 hours a precipitate formed but the reaction was continued overnight. After cooling to RT, MeOH was removed by rotovap and the aqueous suspension diluted with 100 mL H2O and neutralized to pH=5 with concentrated HCl. As pH=5 was approached, the suspension turned from yellow to white. The suspension was then filtered through paper on a large ceramic funnel. The filtration went very slowly, taking several hours. The filter cake was washed twice with H2O. When most of the H2O was removed, the residue was dried under high vacuum in a dessicator overnight to give the free acid as a white solid (6 g, 88%). 1H-NMR (400 MHz, d6-DMSO) δ 8.79 (br s, 1H), 8.36 (d, 1H), 8.22 (s, 1H), 7.57 (d, 1H), 7.51 (s, 1H), 3.97 (s, 3H), 242 (s, 3H).

reactant | 3-methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid methyl ester | 22.6 mmol, 7.15 g | COC(C1=CC(=C(C=C1)NC(=O)NC1=NC=C(N=C1)C)OC)=O | C15H16N4O4
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide monohydrate | 226 mmol, 9.5 g | O.[OH-].[Li+]
solvent | H2O | 226 mL | O | H2O
product | 3-Methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid | 6 g, 88% | COC=1C=C(C(=O)O)C=CC1NC(=O)NC1=NC=C(N=C1)C | C14H14N4O4
